US05753664
2-(4-(4-Hydroxymethylpiperidylcarbonyl)benzylthio)-3,5-dimethyl-4(3H)-quinazolinone
In THF (25 ml) was dissolved 2-[4-(4-ethoxycarbonylpiperidylcarbonyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (3.593 g) followed by addition of LiBH4 (254 mg), and the mixture was stirred for 30 minutes. This reaction mixture was washed with 1N-HCl and saturated aqueous NaCl solution in that order, dried, and concentrated. The residue was rinsed with ethyl acetate to provide the title compound as colorless-solid (1.871 g).

reactant | 2-[4-(4-ethoxycarbonylpiperidylcarbonyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 3.593 g | C(C)OC(=O)C1CCN(CC1)C(=O)C1=CC=C(CSC2=NC3=CC=CC(=C3C(N2C)=O)C)C=C1 | C26H29N3O4S
reactant | LiBH4 | 254 mg | [Li+].[BH4-]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-(4-(4-Hydroxymethylpiperidylcarbonyl)benzylthio)-3,5-dimethyl-4(3H)-quinazolinone | 1.871 g | OCC1CCN(CC1)C(=O)C1=CC=C(CSC2=NC3=CC=CC(=C3C(N2C)=O)C)C=C1 | C24H27N3O3S
